US07465731B2
To a mixture of ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate dihydrochloride (250 mg), 4-(chloromethyl)-1,2-dimethylbenzene (89.0 mg), and DMF (5.8 mL) was added K2CO3 (278 mg). After stirring for 2 hours at room temperature, the reaction mixture was partitioned between ethyl acetate and H2O. The organic layer was washed with brine, dried over MgSO4, filtered, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(3,4-dimethylbenzyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate (263 mg).

reactant | ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate dihydrochloride | 250 mg | Cl.Cl.C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CNCC1
reactant | 4-(chloromethyl)-1,2-dimethylbenzene | 89.0 mg | ClCC1=CC(=C(C=C1)C)C | C9H11Cl
reactant | K2CO3 | 278 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5.8 mL | CN(C)C=O | C3H7NO
product | ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(3,4-dimethylbenzyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate | 263 mg | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CN(CC1)CC1=CC(=C(C=C1)C)C | C28H37N3O4
